US09302989B2
N-(4-phenylbutyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1A, substituting (4-isocyanatobutyl)benzene for methyl 4-isocyanatobenzoate and 1,3-dihydro-2H-pyrrolo[3,4-c]pyridine for isoindoline. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.55 (s, 1H), 8.46 (d, J=5.0 Hz, 1H), 7.38 (d, J=5.1 Hz, 1H), 7.32-7.22 (m, 2H), 7.23-7.11 (m, 3H), 6.38 (t, J=5.6 Hz, 1H), 4.63-4.57 (m, 4H), 3.10-3.07 (m, 2H), 2.59 (t, J=7.5 Hz, 2H), 1.66-1.39 (m, 4H); MS (ESI(+)) m/e 296 (M+H)+.

reactant | methyl 4-isocyanatobenzoate | N(=C=O)C1=CC=C(C(=O)OC)C=C1 | C9H7NO3
reactant | 1,3-dihydro-2H-pyrrolo[3,4-c]pyridine | C1NCC=2C=NC=CC21 | C7H8N2
reactant | isoindoline | C1NCC2=CC=CC=C12 | C8H9N
product | N-(4-phenylbutyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C1(=CC=CC=C1)CCCCNC(=O)N1CC=2C=NC=CC2C1 | C18H21N3O
